US09260427B2
Prepared using General Procedure 10. A solution of methyl 2-(4-bromophenyl)-2-(4-(tert-butyl)benzamido)acetate (202 mg, 0.5 mmol), KOAc (147 mg, 1.5 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (165 mg, 0.65 mmol) in DMSO (3 mL) was de-gassed. PdCl2dppf (18 mg, 0.025 mmol) was added and the mixture was heated at 90° C. for 1.5 h. The crude reaction mixture was poured onto ice-water and the solid was filtered. The solid was dissolved in DCM (5 mL), dried over MgSO4, evaporated and purified by chromatography (EA/hexane) to provide 71 mg (31%) of methyl 2-(4-(tert-butyl)benzamido)-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate INT-34. LCMS-ESI (m/z) calculated for C26H34BNO5: 451.3. found 452.2 [M+H]+, tR=3.83 min (Method 16).

reactant | methyl 2-(4-bromophenyl)-2-(4-(tert-butyl)benzamido)acetate | 0.5 mmol, 202 mg | BrC1=CC=C(C=C1)C(C(=O)OC)NC(C1=CC=C(C=C1)C(C)(C)C)=O | C20H22BrNO3
reactant | KOAc | 1.5 mmol, 147 mg | CC(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.65 mmol, 165 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | methyl 2-(4-(tert-butyl)benzamido)-2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)acetate | 71 mg, 31% | C(C)(C)(C)C1=CC=C(C(=O)NC(C(=O)OC)C2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C26H34BNO5
